US06410585B1
5-[(2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[(1-methyl-3,3-diphenylpropyl)amino]-3-oxopropyl]-2-(carboxymethoxy)benzoic acid
Synthesis was performed from (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid (88 mg, 0.16 mmol) and 1-methyl-3,3-diphenylpropylamine (45 mg, 0.19 mmol) according to Method C with HPLC purification to give the title compound (31 mg) as a diastereomeric mixture in a 2:1 ratio. HRMS m/z 737.3312 (calc. of monoisotopic mass for C42H47N3O9 gives 737.3329).

reactant | (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid | 0.16 mmol, 88 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)OCC(=O)OC)C(=O)OC)CC1=CC=CC=C1 | C28H34N2O10
reactant | 1-methyl-3,3-diphenylpropylamine | 0.19 mmol, 45 mg | CC(CC(C1=CC=CC=C1)C1=CC=CC=C1)N | C16H19N
product | 5-[(2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[(1-methyl-3,3-diphenylpropyl)amino]-3-oxopropyl]-2-(carboxymethoxy)benzoic acid | 31 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@@H](CC=1C=CC(=C(C(=O)O)C1)OCC(=O)O)C(=O)NC(CC(C1=CC=CC=C1)C1=CC=CC=C1)C)CC1=CC=CC=C1 | C42H47N3O9
